US07776875B2
Preparation of Intermediate E/Z-1-(1-tert-butoxy-vinyl)-6-chloro-3-[5-chloro-2-(tetrahydro-pyran-4-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one
To a solution of E/Z-6-chloro-3-[5-chloro-2-(tetrahydro-pyran-4-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one (1.69 g, 4.2 mmol) in dichloromethane (25 mL) at room temperature was added di-tert-butyl-dicarbonate (1.83 g, 8.4 mmol), followed by the addition of 4-dimethylaminopyridine (1.23 g, 10.1 mmol). After the reaction mixture was stirred at room temperature for 1 h, the solution concentrated. The residue was purified by column chromatography to give the title compound as a brown solid (2.02 g).

reactant | Z-6-chloro-3-[5-chloro-2-(tetrahydro-pyran-4-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one | 4.2 mmol, 1.69 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCC1CCOCC1 | C21H19Cl2NO3
reactant | di-tert-butyl-dicarbonate | 8.4 mmol, 1.83 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10.1 mmol, 1.23 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-1-(1-tert-butoxy-vinyl)-6-chloro-3-[5-chloro-2-(tetrahydro-pyran-4-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one | 2.02 g | C(C)(C)(C)OC(=C)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC1CCOCC1)=O | C27H29Cl2NO4
